US06841549B1
(1) Synthesis of N1-(5-amino-4,6-dichloro-2-pyrimidinyl) acetamide
N1-(4,6-Dichloro-5-nitro-2-pyrimidinyl)acetamide (100 g, 0.40 mol) and Raney nickel (100 g, wet) were suspended in methanol (1.5 L) and stirred vigorously for 5 hours in a hydrogen atmosphere, at ordinary temperature and at normal pressure. After the nickel was filtered off, the filtrate was concentrated. The residue was crystallized from methanol/ethyl acetate, and the crystals were collected by filtration and washed with ethyl acetate, to give the title compound (44.6 g, 51%) as a brown solid.

reactant | N1-(4,6-Dichloro-5-nitro-2-pyrimidinyl)acetamide | 0.40 mol, 100 g | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)NC(C)=O | C6H4Cl2N4O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 100 g | [Ni] | Ni
solvent | methanol | 1.5 L | CO | CH4O
product | N1-(5-amino-4,6-dichloro-2-pyrimidinyl) acetamide | 44.6 g, 51% | NC=1C(=NC(=NC1Cl)NC(C)=O)Cl | C6H6Cl2N4O
